US05246915
A mixture of 16.5 g of N,α-bis-formyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl) glycine methyl ester, 65.0 g of ammonium acetate and 100 ml of acetic acid are refluxed for 8 hours. Then additional 50 g ammonium acetate are added and the refluxing is continued for further 4 hours. The solution is diluted with 300 ml of water and extracted twice, with 100 ml of toluene each time. The organic phases are combined, concentrated and separated at silica gel by chromatography. Concentration of the eluate yields 1-(1,2,3,4-tetrahydronaphthalen-1-yl) -5-imidazolecarboxylic acid methyl ester, having a melting point of 63° C.

reactant | N,α-bis-formyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl) glycine methyl ester | 16.5 g | COC(C(N(C1CCCC2=CC=CC=C12)C=O)C=O)=O | C15H17NO4
reactant | ammonium acetate | 65.0 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 50 g | C(C)(=O)[O-].[NH4+]
solvent | water | 300 ml | O | H2O
product | 1-(1,2,3,4-tetrahydronaphthalen-1-yl) -5-imidazolecarboxylic acid methyl ester | COC(=O)C1=CN=CN1C1CCCC2=CC=CC=C12 | C15H16N2O2
